Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
N/V, lethargy
 
Major Surgical or Invasive Procedure:
___ -- wound debridement
___ -- Vac placement

 
History of Present Illness:
___ with hx of opioid use disorder in remission since ___ on methadone, HCV, recent diagnosis of metastatic colon
cancer s/p ostomy placement in ___, not on chemotherapy,
presenting with nonhealing surgical site and persistent N/V.
History is obtained from review of ED records and discussion 
with
patient and his mother, ___, at bedside, as well as review of
faxed records from ___. Pt initially
developed abdominal discomfort in early ___. He
presented to ___ in ___, on
___, at which time he was found to have an "intestinal
abscess." Surgery was scheduled for ___ by Dr. ___.
Postoperatively, he developed fever to 102, rigors, received
antibiotics in the hospital.

After surgery, he noted draining wound developing below
umbilicus. Apparently has had daily wick changes by ___, 
although
not changed on ___. 

He describes intermittent nausea, vomiting, abdominal pain, 
fever
since his surgery. He and his family attributed some of his
symptoms to "flu," given sick contacts at home. Since surgery, 
he
has been lethargic. On ___, he developed intractable N/V,
unable to tolerate POs, with ongoing drainage from surgical site
wound, noted to have increased purulence. Endorses diaphoresis.
Ostomy output fluctuates, there is daily output, nonbloody.

He is interested in transferring his care to ___.

Records obtained from ___ overnight, 
reviewed
below:
Initially admitted approx. ___, left AMA ___ anxiety
regarding diagnosis and recommended surgical management
Readmitted ___ 
___ - underwent laparoscopic converted to open ___
procedure by Dr. ___ was discontinued, transition to methadone for pain
management
Developed leukocytosis, chest x-ray with left lower lobe
infiltrate, also noted to have opening of midline abdominal
incision at 2 sites and "a large abscess was drained."
Pathology results revealed "poorly differentiated
adenocarcinoma." (detailed report copied below)
Oncology was consulted and recommended port placement and
chemotherapy, which were deferred in the setting of wound
infection.  Given prolonged course of antibiotics during his
hospitalization, he was discharged off antibiotics.
Oncologist ___ MD, ___
CEA 5.2

Findings from operative report ___:
1. Perforated tumor at the rectosigmoid junction with very
fibrotic thickened tissue attached to the right pelvic sidewall
as a consequence of the abscess cavity.
2. Left ureter identified and isolated from the dissection.
3. Sigmoid and upper rectum were removed and end colostomy
created.
4. #19 ___ drain was left in the pelvis.

In the ED:
VS 97.4, 67, 105/79, 99% RA
Appeared uncomfortable, with tender, slightly distended abdomen,
wound with drainage of "purulent" fluid.
Labs notable for WBC 8.4, Hb 13.2, plt 315
Lactate 1.1
BUN 12, Cr 0.6
ALT 28
AST 39
Alk phos 179
UCx and BCx sent
CT abd/pelvis with known liver mets, no bowel obstruction or
ascites
Reviewed with CRS - wound opened at bedside, fascia intact, left
wet to dry, plan to discuss VAC placement in am, no need for
antibiotics

Pt received Zofran, methadone, IVF, dilaudid 0.5 mg IV

On arrival to the floor, pt endorses ___ pain, increasing, at
incisional site, as well as marked fatigue. He endorses nausea.
 
Past Medical History:
Opioid use disorder - last use was ___ - was initially on
___, transitioned to methadone 20 mg QID 
Left hip Gamma nail fixation for lytic lesion - ___, ___, by Dr. ___ pathology in ___ records, but
radiographically apparently appeared to be benign 
Hepatitis C infection
 
Social History:
___
Family History:
Maternal grandfather and maternal aunt both with
colon cancer. Aunt was diagnosed late ___, grandfather with
"cancerous polyps" at age ___. Father's brother died from cancer
(unknown details) in his early ___. Mother has ?IBS, low back
pain, L anterior cervical adenopathy of unclear etiology. Half
brother ___ other son) committed suicide at age ___. 
 
Physical Exam:
Admission physical exam:

VS: 97.7 PO 123 / 80 Sitting 71 18 98 RA  
GEN: young male, fatigued-appearing, minimally interactive
although able to communicate when asked specific questions
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles anteriorly
GI: distended, diffusely TTP most pronounced at RLQ, ostomy at
LLQ with pink stoma, no surrounding erythema. Vertical midline
incision is 6-7 cm, packed, without surrounding erythema or
obvious purulent drainage, TTP, +bowel sounds, +hepatomegaly by
percussion
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: appears fatigued, strength is grossly intact
PSYCH: grossly intact insight

Patient examined on day of discharge, wound was clean and packed 
with gauze prior to vac placement. Otherwise unchanged.
 
Pertinent Results:
LABORATORY RESULTS

___ 05:55AM BLOOD WBC-8.7 RBC-4.31* Hgb-12.8* Hct-38.4* 
MCV-89 MCH-29.7 MCHC-33.3 RDW-13.2 RDWSD-43.0 Plt ___
___ 01:46PM BLOOD Neuts-72.9* Lymphs-17.0* Monos-7.3 
Eos-1.8 Baso-0.6 Im ___ AbsNeut-6.11* AbsLymp-1.42 
AbsMono-0.61 AbsEos-0.15 AbsBaso-0.05
___ 05:55AM BLOOD Glucose-86 UreaN-10 Creat-0.6 Na-138 
K-4.1 Cl-99 HCO3-26 AnGap-13
___ 01:46PM BLOOD ALT-28 AST-30 AlkPhos-179* TotBili-0.3
___ 05:55AM BLOOD Calcium-9.1 Phos-4.3 Mg-2.0
___ 05:55AM BLOOD CEA-17.9*
___ 05:55AM BLOOD HIV Ab-NEG
___ 05:55AM BLOOD HCV Ab-POS*
___ 05:55AM BLOOD HCV VL-PND
___ 02:04PM BLOOD Lactate-1.1

CT Abd/pelvis:

1. Multiple liver lesions are concerning for hepatic metastatic 
disease, 
several with associated bulging of the liver capsule, likely 
accounting for 
patient's pain.  Abnormal cluster of lymph nodes along the 
gastrohepatic 
recess. 
2. No bowel obstruction. 

 
Brief Hospital Course:
___ is a ___ year-old man with a history of opiate use disorder 
and a new diagnosis of colon cancer s/p colonoscopy placement, 
who was admitted with a surgical site abscess. Colorectal 
surgery debrided in the ER, and then placed a wound vac. He was 
briefly started on vancomycin, but stopped with no sign of 
infection. He will follow up with Dr. ___ for setting 
up his wound vac at home in ___.

___ course by problem:

1. Soft tissue abscess
- wound vac on discharge

2. Colon cancer. Patient and mother will follow up as outpatient 
with gastro-oncology

3. Nausea. Zofran ODT at home

4. Anorexia. Mirtazapine QHS

5. Chronic pain
6. Opiate use disorder.
Continue home methadone.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. ARIPiprazole 2 mg PO DAILY 
2. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
3. Docusate Sodium 100 mg PO BID 
4. DULoxetine 30 mg oral DAILY 
5. Methadone 20 mg PO QID:PRN pain 
6. Simethicone 80 mg PO QID:PRN gas pain 
7. CloNIDine 0.1 mg PO BID:PRN anxiety 

 
Discharge Medications:
1.  Mirtazapine 15 mg PO QHS 
RX *mirtazapine 15 mg 1 tablet(s) by mouth Every evening Disp 
#*30 Tablet Refills:*0 
2.  Ondansetron ODT 4 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth Every eight hours as 
needed Disp #*30 Tablet Refills:*0 
3.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
4.  ARIPiprazole 2 mg PO DAILY  
5.  CloNIDine 0.1 mg PO BID:PRN anxiety  
6.  Docusate Sodium 100 mg PO BID  
7.  DULoxetine 30 mg oral DAILY  
8.  Methadone 20 mg PO QID:PRN pain  
9.  Simethicone 80 mg PO QID:PRN gas pain  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Superficial incisional soft tissue infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a surgical site abscess. This was drained 
by colorectal surgery, and a wound vac was placed. There was no 
sign of an infection, so your antibiotics were stopped. You will 
have your wound vac managed by your home colorectal surgeon.

Otherwise, I discussed your case with Dr. ___, a 
gastro-oncologist. Please call ___ to schedule an 
appointment with her in the next several weeks.
 
Followup Instructions:
___